US06677368B2
To the suspension of 3-(1H-indol-4-yl)-benzoic acid (7.58 g, 33 mmol) in t-BuOH:ethanol:acetic acid (150 mL:100 mL:50 mL) was added pyridinium tribromide (31.66 g, 99 mmol) portionwise. The mixture was stirred at room temperature for 2 hours, and then to the mixture was added with acetic acid (150 mL). Water (4 mL) and Zinc dust (13.07 g, 200 mmol) was added to the reaction mixture portionwise and stirring was continued at room temperature for 2 hours. The solvent was removed under reduced pressure. The oily residue was suspended in 1N HCl (400 mL) and stirred at room temperature overnight. The precipitate solid was collected by filtration, purified by recrystallization from ethyl acetate to give (6.4 g, 77%) of 3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzoic acid as a pinkish white solid.

reactant | 3-(1H-indol-4-yl)-benzoic acid | 33 mmol, 7.58 g | N1C=CC2=C(C=CC=C12)C=1C=C(C(=O)O)C=CC1 | C15H11NO2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 99 mmol, 31.66 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 200 mmol, 13.07 g | [Zn] | Zn
solvent | Water | 4 mL | O | H2O
product | 3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzoic acid | 6.4 g, 77% | O=C1NC2=CC=CC(=C2C1)C=1C=C(C(=O)O)C=CC1 | C15H11NO3
